US05668291
2,2'-Dithiobis[N-[4-(trifluoromethyl)phenyl]benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (1.12 g, 3.26 mmol) in 25 mL of dichloromethane and 4-aminobenzotrifluoride (1.05 g, 6.53 mmol) in 8 mL of pyridine. The crude product was recrystallized from water-DMF to yield 0.47 g of the title compound, mp 272°-275° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 3.26 mmol, 1.12 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-aminobenzotrifluoride | 6.53 mmol, 1.05 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[4-(trifluoromethyl)phenyl]benzamide] | 0.47 g | FC(C1=CC=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=CC=C1)=O)(F)F | C28H18F6N2O2S2
